datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)Nc1ccc([O:21][H:20])c([N+](=O)[O-])c1.Cc1noc([N-:10]S(=O)(=O)c2ccc(N)cc2)c1C>>CC(=O)Nc1ccc([O-:21])c([N+](=O)[O-])c1.Cc1noc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])c1C 10=20;20,21=21",
"CC[NH:10]CC[Se-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC[NH+:10](CC[Se-])[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O-])c1ccccc1[O:21][H:20].Cc1c(C(=O)[O-])sc2cc(Cn3cc[n:10]c3)ccc12>>CC(C)(/C=C/C(=O)[O-])c1ccccc1[O-:21].Cc1c(C(=O)[O-])sc2cc(Cn3cc[n+:10]([H:20])c3)ccc12 10=20;20,21=21",
"C[N:10](C)c1ccc(/C=C/c2ccncc2)cc1.C[NH+](C)CC(P(=O)([O-])O)P(=O)([O-])[O:21][H:20]>>C[N+:10](C)(c1ccc(/C=C/c2ccncc2)cc1)[H:20].C[NH+](C)CC(P(=O)([O-])O)P(=O)([O-])[O-:21] 10=20;20,21=21",
"CC1CCCC(C(=O)[O-])[NH:10]1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC1CCCC(C(=O)[O-])[NH+:10]1[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C1CCN(C2CC[NH:10]CC2)CC1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1CCN(C2CC[NH+:10]([H:20])CC2)CC1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"COc1cccc(C[NH2:10])c1OC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1cccc(C[NH2+:10][H:20])c1OC.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1(C)[C@@H]2CC[C@](C(=O)[O-:10])(C2)[C@@H]1O.O=C([O-])C(O)Cc1c[nH]c[n+:21]1[H:20]>>CC1(C)[C@@H]2CC[C@](C(=O)[O:10][H:20])(C2)[C@@H]1O.O=C([O-])C(O)Cc1c[nH]c[n:21]1 10=20;20,21=21",
"C#C[C@]1(O)C[C@@H](C)[NH:10][C@H]2CCCC[C@@H]21.O=C(Cn1nnnc1-c1ccccc1)[O:21][H:20]>>C#C[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@H]2CCCC[C@@H]21.O=C(Cn1nnnc1-c1ccccc1)[O-:21] 10=20;20,21=21",
"CC1CNCc2ccccc2OCCOc2ccccc2C[NH:10]1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1CNCc2ccccc2OCCOc2ccccc2C[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCCCC[NH+:21](Cc1ccc(C)cc1)[H:20].COC(=O)[C@H](NC(=O)Cc1ccccc1)[C@@H]1SC(C)(C)[C@H]2C(=O)[N-:10]C(=S)N12>>CCCCCC[NH:21]Cc1ccc(C)cc1.COC(=O)[C@H](NC(=O)Cc1ccccc1)[C@@H]1SC(C)(C)[C@H]2C(=O)[N:10]([H:20])C(=S)N12 10=20;20,21=21",
"C(/C=C/c1ccccc1)=N/[O-:10].[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>C(/C=C/c1ccccc1)=N/[O:10][H:20].[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])c2ccc[n:10]c12.Cc1cnc2c([S-])[n+:21]([H:20])cnc2n1>>COc1ccc([N+](=O)[O-])c2ccc[n+:10]([H:20])c12.Cc1cnc2c([S-])[n:21]cnc2n1 10=20;20,21=21",
"CCc1cc(Cl)c([O-:10])c(C(=O)NCC2CCC[NH+]2CC)c1OC.O=[N+]([O-])c1cccc(-c2nnn[n:21]2[H:20])c1>>CCc1cc(Cl)c([O:10][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC.O=[N+]([O-])c1cccc(-c2nnn[n-:21]2)c1 10=20;20,21=21",
"CC[N:10](CC)CCCNc1ccnc2ccccc12.COC(=O)c1ccccc1[S:21][H:20]>>CC[N+:10](CC)(CCCNc1ccnc2ccccc12)[H:20].COC(=O)c1ccccc1[S-:21] 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])c(C[NH2+:21][H:20])c1.COc1ccc2c3c1O[C@@H]1C(=O)CC[C@]4(O)[C@H](C2)[N:10](C)CC[C@@]314>>COc1ccc([N+](=O)[O-])c(C[NH2:21])c1.COc1ccc2c3c1O[C@@H]1C(=O)CC[C@]4(O)[C@H](C2)[N+:10](C)([H:20])CC[C@@]314 10=20;20,21=21",
"C[n+]1nc([O:21][H:20])ccc1[O-].O=C(CCC[N:10]1CCOCC1)c1ccccc1>>C[n+]1nc([O-:21])ccc1[O-].O=C(CCC[N+:10]1([H:20])CCOCC1)c1ccccc1 10=20;20,21=21",
"CC1=NN(c2ccccc2)C(=O)/C1=C\c1c(C)nn(-c2ccccc2)c1[O-:10].COc1ccc(C2CCC[NH+]2C)c[n+:21]1[H:20]>>CC1=NN(c2ccccc2)C(=O)/C1=C\c1c(C)nn(-c2ccccc2)c1[O:10][H:20].COc1ccc(C2CCC[NH+]2C)c[n:21]1 10=20;20,21=21",
"Cc1ccc2[nH]c[n+:21]([H:20])c2c1.O=C([O-])C1Cc2[nH]cnc2C[NH:10]1>>Cc1ccc2[nH]c[n:21]c2c1.O=C([O-])C1Cc2[nH]cnc2C[NH+:10]1[H:20] 10=20;20,21=21",
"CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2+:21][H:20])n1.CSc1cc[n:10]c2ccccc12>>CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2:21])n1.CSc1cc[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"C=C(CCCC)C(=O)[O-:10].CCc1[nH]c2cc3ccccc3cc2[n+:21]1[H:20]>>C=C(CCCC)C(=O)[O:10][H:20].CCc1[nH]c2cc3ccccc3cc2[n:21]1 10=20;20,21=21",
"CCc1cccc2ccc([O:21][H:20])cc12.Cc1nc(N)c(C[NH3+])c[n:10]1>>CCc1cccc2ccc([O-:21])cc12.Cc1nc(N)c(C[NH3+])c[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O[C@H]1CCC[C@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[C@H]1CCC[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"C[NH+](C)c1ccc([N+:21](C)(C)[H:20])cc1.Nc1nc(NCCO)nc(NCCO)[n:10]1>>C[NH+](C)c1ccc([N:21](C)C)cc1.Nc1nc(NCCO)nc(NCCO)[n+:10]1[H:20] 10=20;20,21=21",
"CC[NH+](CC)CCCCC(C)Nc1c2cc(OC)ccc2[n+:21]([H:20])c2cc(Cl)ccc12.CNc1sc(c2ccccc2)n[n:10]1>>CC[NH+](CC)CCCCC(C)Nc1c2cc(OC)ccc2[n:21]c2cc(Cl)ccc12.CNc1sc(c2ccccc2)n[n+:10]1[H:20] 10=20;20,21=21",
"CC(C[NH:10]C)c1ccccc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C[NH+:10](C)[H:20])c1ccccc1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O[C@H]1CCCC[C@@H]1[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"O=C(c1ccccc1)c1c(C(=O)[O-:10])cccc1[N+](=O)[O-].O=[N+]([O-])c1ccc2ccc[n+:21]([H:20])c2c1O>>O=C(c1ccccc1)c1c(C(=O)[O:10][H:20])cccc1[N+](=O)[O-].O=[N+]([O-])c1ccc2ccc[n:21]c2c1O 10=20;20,21=21",
